US05547983
Methyl 6-[3-(1-adamantyl)-4-(3-hydroxypropyloxy)phenyl]-2-naphthoate;
77 mg (2.55 retool) of 80% sodium hydride in oil are added to 1 g (2.42 mmol) of methyl 6-[3-(1-adamantyl)-4-hydroxyphenyl]-2-naphthoate in solution in 10 ml of DMF. After 1 h 30 min of stirring, 230 ml (2.42 mmol) of bromopropanol are added to this reaction medium which is left stirring for 12 hours at room temperature, under nitrogen. The reaction medium is poured into water, acidified to pH=1 with concentrated HCl and extracted with ethyl acetate. The organic phase is washed with water, dried over magnesium sulphate, filtered and evaporated. The residue is chromatographed on silica in dichloromethane, and crystallized from the dichloromethane/hexane mixture to give 600 mg (53%) of the expected derivative which melts at 201.9° C.

reactant | sodium hydride | 77 mg | [H-].[Na+]
reactant | methyl 6-[3-(1-adamantyl)-4-hydroxyphenyl]-2-naphthoate | 2.42 mmol, 1 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2O)C=2C=C3C=CC(=CC3=CC2)C(=O)OC | C28H28O3
reactant | bromopropanol | 2.42 mmol, 230 ml | BrC(CC)O | C3H7BrO
reactant | HCl | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Methyl 6-[3-(1-adamantyl)-4-(3-hydroxypropyloxy)phenyl]-2-naphthoate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCCCO)C=2C=C3C=CC(=CC3=CC2)C(=O)OC | C31H34O4
